US08222424B2
2-Chloro-5-[(4-fluoro-phenyl)-hydroxy-methyl]-benzenesulfonamide
A solution of 590 mg of 1-bromofluorobenzene (1.11 mmol, 3 equivalent) in 10 mL of anhydrous tetrahydrofuran is stirred at −78° C. as 3.9 mL of tert-butyllithium (1.7 M in cyclohexane, 6.66 mmol, 6 equivalent) is added drop-wise. The reaction mixture is stirred at −78° C. for 2 h, then is transferred to a previously prepared a solution of 243 mg of 2 chloro-5-formyl-benzenesulfonamide (1.11 mmol, 1 equivalent) and 0.65 mL of tert-butyllithium (1.7 M in cyclohexane, 1 equivalent) in 10 mL of anhydrous tetrahydrofuran. The reaction is allowed to warm to room temperature and stirred at room temperature for 18 h. The reaction is quenched with 0.1 N HCl and then extracted several times with ethyl acetate. The combined organic extracts are dried over sodium sulfate, and concentrated in vacuo to give 65 mg of the title compound which is carried on without further purification.

reactant | 1-bromofluorobenzene | 1.11 mmol, 590 mg, 3 equivalent | BrC1=C(C=CC=C1)F | C6H4BrF
reactant | tert-butyllithium | 6.66 mmol, 1.7 M, 3.9 mL, 6 equivalent | C(C)(C)(C)[Li]
reactant | chloro-5-formyl-benzenesulfonamide | 1.11 mmol, 1 equivalent | ClC1=C(C=C(C=C1)C=O)S(=O)(=O)N | C7H6ClNO3S
reactant | tert-butyllithium | 1.7 M, 0.65 mL, 1 equivalent | C(C)(C)(C)[Li]
solvent | tetrahydrofuran | 10 mL | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 10 mL | O1CCCC1 | C4H8O
product | 2-Chloro-5-[(4-fluoro-phenyl)-hydroxy-methyl]-benzenesulfonamide | 65 mg | ClC1=C(C=C(C=C1)C(O)C1=CC=C(C=C1)F)S(=O)(=O)N | C13H11ClFNO3S
